US07825244B2
4-[7-(3-[1,2,4]Triazol-4-yl-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(7-fluoro-quinazolin-4-yl)-piperidin-1-carboxylic acid tert-butyl ester (31.6 mg, 95.5 μmol), as prepared in Example 12b, 3-[1,2,4]-triazol-4-yl-propan-1-ol (ChemPacific) (12.0 mg, 94.5 μmol), and KOtBu (11.7 mg, 104 μmol) in DME (100 μL) and DMSO (50 μL) was stirred at rt for 1 hr. The resulting homogeneous amber solution was partitioned with DCM (2 mL) and 0.5M sodium phosphate/pH 7 (2 mL). The organic layer was concentrated to provide the crude title compound. LC/MS (ESI): calcd mass 438.2, found 439.1 (MH)+.

reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidin-1-carboxylic acid tert-butyl ester | 95.5 μmol, 31.6 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
reactant | 3-[1,2,4]-triazol-4-yl-propan-1-ol | 94.5 μmol, 12.0 mg | N=1N=CN(C1)CCCO | C5H9N3O
reactant | KOtBu | 104 μmol, 11.7 mg | CC(C)(C)[O-].[K+]
solvent | DME | 100 μL | COCCOC | C4H10O2
solvent | DMSO | 50 μL | CS(=O)C | C2H6OS
product | 4-[7-(3-[1,2,4]Triazol-4-yl-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCN1C=NN=C1 | C23H30N6O3
